* Z:\home\rbarghi\Dropbox\LTspiceSims\SinglePoleCircuit.asc
Cin1 VPoleZero ActiveLowPass 220p
RP1 VPoleZero ActiveLowPass 2k
Rin1 VPoleZero 0 80
V§Psup1 Vp 0 5
V1 0 Vn 5
R1 N002 VSensl 100
R2 ActiveLowPass N002 500
XU1 0 N002 ActiveLowPass Vp Vn NC_01 LT6200-10
C1 ActiveLowPass N002 10p
VSipm1 N004 0 EXP(0 70m 100n 10n 0 472n) AC 1 Rser=100
R3 N001 VPoleZero 100
R4 ActiveLowPass1 N001 500
XU2 0 N001 ActiveLowPass1 Vp Vn NC_02 LT6200-10
C2 ActiveLowPass1 N001 10p
VSipm2 N003 0 EXP(0 50m 200n 10n 0 472n) AC 1 Rser=100
VSipm3 N005 0 EXP(0 90m 400n 10n 0 472n) AC 1 Rser=100
R5 N003 VSensl .01
R6 VSensl N005 .01
R7 VSensl N004 .01
.tran 1000n
.lib LTC2.LIB
.backanno
.end
